US07595327B2
To a solution of methyl (3R,4R)-4-{benzyl[(1S)-1-phenylethyl]amino}-1-(10,11-dihydro-5H-dibenzo[a,d][7]annulen-5-yl)-3-hydroxypiperidine-3-carboxylate (4.14 g, 6.94 mmol) in CH2Cl2 (10 mL) was added triethylsilane (1.6 mL, 10.2 mmol, 1.3 eq), followed by trifluoroacetic acid (10 mL). The reaction was stirred at room temperature for 30 min. The reaction was then concentrated in vacuo and residual trifluoroacetic acid was chased 3 times with methanol to yield an off-white solid. The solid was combined with THF (40 mL), triethylamine (5.5 mL, 39.15 mmol, 5.0 eq) and di-tert-butyl-dicarbonate (1.88 g, 8.61 mmol, 1.1 eq) and stirred at rt overnight. The solvent was concentrated in vacuo and the residue was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over MgSO4, and concentrated. The crude product was purified by chromatography on silica gel eluting with 20% ethyl acetate/hexane to yield 2.89 g (89%) of 1-tert-butyl 3-methyl (3R,4R)-4-{benzyl[(1S)-1-phenylethyl]amino}-3-hydroxypiperidine-1,3-dicarboxylate as white fluffy powder. MS: (M+H)+=469.1.

reactant | methyl (3R,4R)-4-{benzyl[(1S)-1-phenylethyl]amino}-1-(10,11-dihydro-5H-dibenzo[a,d][7]annulen-5-yl)-3-hydroxypiperidine-3-carboxylate | 6.94 mmol, 4.14 g | C(C1=CC=CC=C1)N([C@H]1[C@](CN(CC1)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2)(C(=O)OC)O)[C@@H](C)C2=CC=CC=C2 | C37H40N2O3
reactant | triethylsilane | 10.2 mmol, 1.6 mL, 1.3 eq | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 39.15 mmol, 5.5 mL, 5.0 eq | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 8.61 mmol, 1.88 g, 1.1 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 3-methyl (3R,4R)-4-{benzyl[(1S)-1-phenylethyl]amino}-3-hydroxypiperidine-1,3-dicarboxylate | 2.89 g, 89% | C(C1=CC=CC=C1)N([C@H]1[C@](CN(CC1)C(=O)OC(C)(C)C)(C(=O)OC)O)[C@@H](C)C1=CC=CC=C1 | C27H36N2O5
